US09023847B2
61. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid {2-[(pyridin-3-ylmethyl)-amino]-ethyl}-amide
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]amide using 3-pyridinecarboxaldehyde instead of 4-methoxy benzaldehyde. LCMS (ESI) 393 (M+H) 1H NMR (400 MHz, METHANOL-d4) δ ppm 8.51 (1H, d, J=2.20 Hz) 8.39 (1H, dd, J=4.91, 1.54 Hz) 8.00 (1H, d, J=5.66 Hz) 7.80 (1H, dt, J=7.83, 1.87 Hz) 7.64 (1H, d, J=5.42 Hz) 7.47 (1H, d, J=5.47 Hz) 7.33 (1H, dd, J=7.83, 4.91 Hz) 7.24 (1H, d, J=3.56 Hz) 6.87 (1H, d, J=5.66 Hz) 6.55 (1H, d, J=3.56 Hz) 3.80 (2H, s) 3.51 (2H, t, J=6.30 Hz) 2.79 (2H, t, J=6.22 Hz)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(4-methoxy-benzylamino)-ethyl]amide | COC1=CC=C(CNCCNC(=O)C=2SC=CC2NC2=C3C(=NC=C2)NC=C3)C=C1 | C22H23N5O2S
reactant | 3-pyridinecarboxaldehyde | N1=CC(=CC=C1)C=O | C6H5NO
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid {2-[(pyridin-3-ylmethyl)-amino]-ethyl}-amide | N1=CC(=CC=C1)CNCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C20H20N6OS
